US05474996
a) Benzylzinc bromide
Using the procedure of Example 1, 2.9 g of electrolytic zinc and 4.8 ml of benzyl bromide were reacted.

reactant | zinc | 2.9 g | [Zn] | Zn
reactant | benzyl bromide | 4.8 ml | C(C1=CC=CC=C1)Br | C7H7Br
product | Benzylzinc bromide | [Br-].C(C1=CC=CC=C1)[Zn+] | InChI=1S/C7H7.BrH.Zn/c1-7-5-3-2-4-6-7;;/h2-6H,1H2;1H;/q;;+1/p-1
